US07842696B2
NH2—NH2—H2O (1.0 g, 20 mmol) was added to a solution of 2,4-dioxo-4-phenyl-butyric acid ethyl ester (1.94 g, 8.81 mmol) in methanol (17 mL). The resulting reaction mixture was heated to reflux for two and half hours. The methanol was evaporated and the resulting solid was heated with 2.5% ethyl acetate in hexane to afford 5-phenyl-1H-pyrazole-3-carboxylic acid methyl ester as a solid in 77.3% yield. LC-MS purity: 93.345%.

reactant | NH2—NH2—H2O | 20 mmol, 1.0 g | NN.O
reactant | 2,4-dioxo-4-phenyl-butyric acid ethyl ester | 8.81 mmol, 1.94 g | C(C)OC(C(CC(C1=CC=CC=C1)=O)=O)=O | C12H12O4
solvent | methanol | 17 mL | CO | CH4O
product | 5-phenyl-1H-pyrazole-3-carboxylic acid methyl ester | 77.3% yield | COC(=O)C1=NNC(=C1)C1=CC=CC=C1 | C11H10N2O2
